*********************************************************************************

** sch_path: /home/lmadhu/openmpw/pdk_1/Project_gf180_tp/xschem/Amplifiers/OTA_2stage.sch

**.subckt OTA_2stage vout vin1 vin2 vdd vss vp

*.opin vout

*.ipin vin1

*.ipin vin2

*.iopin vdd

*.iopin vss

*.ipin vp

********************************************************************************

****Differential NMOS Input pairs 
****(multiplicity doesnot work in the model. Multiple NMOS cells (for m=18 and W/L= 100u/1u) should be written manually)

XM1 vx vin1 vtail vss nfet_03v3 L=1u W=100u nf=500 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=18

XM2 net1 vin2 vtail vss nfet_03v3 L=1u W=100u nf=500 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=18

*****PMOS active load pairs

XM3 vx vx vdd vdd pfet_03v3 L=2u W=50u nf=50 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=1

XM4 net1 vx vdd vdd pfet_03v3 L=2u W=50u nf=50 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=1


*****Tail current NMOS 

XM5 vtail vbias_tail vss vss nfet_03v3 L=1u W=60u nf=60 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=1

*****Current Mirror NMOS 

XM6 vbias_tail vbias_tail vss vss nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=1

*****Current Reference PMOS

XM7 vbias_tail vp vdd vdd pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=1


*****Second stage Amplifier 

****(multiplicity doesnot work in the model. Multiple NMOS cells (for m=7 and W/L= 100u/1u) should be written manually)

XM8 vout vbias_tail vss vss nfet_03v3 L=1u W=100u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=7

****(multiplicity doesnot work in the model. Multiple PMOS cells (for m=4 and W/L= 100u/0.7u) should be written manually)

XM10 vout net1 vdd vdd pfet_03v3 L=0.7u W=100u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'

+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'

+ sa=0 sb=0 sd=0 m=4

*****Load Cap
*C1 vout GND 1p m=1

*****Miller Compensation cap

XC1 net2 vout cap_mim_2f0_m2m3_noshield c_width=40e-6 c_length=40e-6 m=1


XR1 net1 net2 vss npolyf_u r_width=4e-6 r_length=2.3e-6 m=1



